US04672066
To 0.58 g of chromium trioxide in 8 ml of 10N sulfuric acid cooled at 0° was added a solution of 1.51 g of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hexynal in 15 ml of acetone over 30 minutes with stirring. The reaction mixture was allowed to warm to 25° over 30 minutes and then concentrated in vacuo to remove the acetone. Water (50 ml) was added and the product was extracted with ether. The ether phase was extracted with 1.0N sodium hydroxide, the aqueous layer was separated, acidified and extracted with ether. The dried (over sodium sulfate) extract was concentrated in vacuo to a solid which was crystallized twice from ether-hexane to give 0.63 g, mp 115-116°, (40% yield) of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hexynoic acid, the titled compound.

reactant | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hexynal | 1.51 g | C(C)(=O)C1=C(C(=C(OCCCC#CC=O)C=C1)CCC)O | C17H20O4
reactant | sulfuric acid | 10N, 8 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 0.58 g | [O-2].[O-2].[O-2].[Cr+6]
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-2-hexynoic acid | 40% yield | C(C)(=O)C1=C(C(=C(OCCCC#CC(=O)O)C=C1)CCC)O | C17H20O5
